US05143642
0.25 mol of anisohydrazide is dissolved in 300 ml of pyridine. At room temperature, 0.25 mol of butyryl chloride is added dropwise, and the mixture is stirred for a further 11/2 hours. The mixture is subsequently poured into 1.5 1 of ice/water, and the crystals are filtered off with suction and washed with water. The N-(4-methoxybenzoyl)-N'-butyrylhydrazine obtained is recrystallized from toluene. 0.1 mol of this compound and 0.1 mol of Lawesson's reagent are refluxed for 10 hours in 200 ml of THF. 2/3 of the solvent are removed by distillation, the residue is poured into 500 ml of water and 50 ml of 32% sodium hydroxide solution, and the precipitate is filtered off with suction and recrystallized from ethanol/activated charcoal, to give 2-(p-methoxyphenyl)-5-propyl-1,3,4-thiadiazole, m.p. 54°, C 0°.

reactant | anisohydrazide | 0.25 mol | C(C1=CC=C(C=C1)OC)(=O)NN | C8H10N2O2
reactant | butyryl chloride | 0.25 mol | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-methoxybenzoyl)-N'-butyrylhydrazine | COC1=CC=C(C(=O)NNC(CCC)=O)C=C1 | C12H16N2O3
